US09024027B2
To a stirred solution of (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (188 mg, 0.449 mmol), DMAP (110 mg, 0.897 mmol) and EDC (129 mg, 0.673 mmol) in DCM (10 ml), 2-(1,3-dioxo-5-(N-(2-(piperidin-1-yl)ethyl)methylsulfonamido)isoindolin-2-yl)acetic acid hydrochloride (200 mg, 0.449 mmol) was added portion wise over 5 hours, and the resulting mixture was stirred at room and for 96 hours. The solvent was removed and the crude was purified by silica gel chromatography (EtOAc/DCM 2/1 then DCM/MeOH 100/3). The resulting white solid was triturated with EtOH and recovered by filtration affording (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(1,3-dioxo-5-(N-(2-(piperidin-1-yl)ethyl)methylsulfonamido)isoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide (190 mg, 0.234 mmol, 52.2% yield, LC-MS purity (BPI): 98.3%, MS/ESI+ 811.21 [MH]+, [αD]=+28.12, c=0.653 DCM). 1H NMR (300 MHz, DMSO-d6) δ ppm 8.44 (s, 2H), 7.97 (d, 1H), 7.95 (d, 1H), 7.89 (dd, 1H), 7.19 (d, 1H), 7.09 (d, 1H), 6.96 (dd, 1H), 7.08 (t, 1H), 6.02 (dd, 1H), 4.43 (s, 2H), 3.91-4.04 (m, 2H), 3.88 (t, 2H), 3.38 (dd, 1H), 3.23 (dd, 1H), 3.15 (s, 3H), 2.35 (t, 2H), 2.17-2.31 (m, 4H), 1.03-1.53 (m, 7H), 0.49-0.68 (m, 2H), 0.28-0.46 (m, 2H).

reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.449 mmol, 188 mg | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | EDC | 0.673 mmol, 129 mg
reactant | 2-(1,3-dioxo-5-(N-(2-(piperidin-1-yl)ethyl)methylsulfonamido)isoindolin-2-yl)acetic acid hydrochloride | 0.449 mmol, 200 mg | Cl.O=C1N(C(C2=CC(=CC=C12)N(S(=O)(=O)C)CCN1CCCCC1)=O)CC(=O)O
catalyst | DMAP | 0.897 mmol, 110 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(1,3-dioxo-5-(N-(2-(piperidin-1-yl)ethyl)methylsulfonamido)isoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide | 0.234 mmol, 190 mg, 52.2% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C2=CC=C(C=C2C1=O)N(S(=O)(=O)C)CCN1CCCCC1)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C36H38Cl2F2N4O9S
